US08633175B2
Step 1: 5,6-difluoro-2,3-dihydro-1H-inden-1-one
To a solution of 3,4-difluorophenyl propionic acid (30.45 g; 163.6 mmol) and 2 drops of DMF in CH2Cl2 (200 mL) was added oxalyl chloride (41.4 g, 327 mmol) over 20 min. The resulting solution was stirred for 24 hr and concentrated in vacuo (chased 1×PhMe, ca. 100 mL). The residue was dissolved in CS2 (300 mL), cooled to 0° C. and AlCl3 (76.4 g, 573 mmol) was added over 10 min. The mixture was stirred 30 min at 0° C., then heated under reflux for 4 hr. Upon cooling to room temperature the solution was carefully poured onto crushed ice, the carbon disulfide layer was separated and the aqueous layer extracted with EtOAc. Combined organics were dried over MgSO4 and the concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.50 (t, 1H, J=8.0 Hz), 7.24 (t, 1H, J=6.6 Hz), 3.09 (t, 2H, J=5.5 Hz), 2.72-2.69 (m, 2H).

reactant | 3,4-difluorophenyl propionic acid | 163.6 mmol, 30.45 g | FC=1C=C(C=CC1F)C(C(=O)O)C | C9H8F2O2
reactant | oxalyl chloride | 327 mmol, 41.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | AlCl3 | 573 mmol, 76.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 5,6-difluoro-2,3-dihydro-1H-inden-1-one | FC=1C=C2CCC(C2=CC1F)=O | C9H6F2O
